US06548671B2
Quinoxaline-2-carboxylic acid [1-benzyl-7-fluoro-2-hydroxy-7-methyl-4-(4H-[1,2,4]triazol-3-yl)-octyl]-amide
To a solution of acetic acid 6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-3-(4H-[1,2,4]triazol-3-yl)-heptyl ester (575 mg, 1.08 mmol) in methanol (10 mL) was added potassium carbonate (276 mg, 2.00 mmol), stirred for 5 hours, and concentrated. The crude product was dissolved in ethyl acetate and water. The organic layer was then washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated. Chromatography on silica gel gave the title compound (459 mg, 87%).

reactant | acetic acid 6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-3-(4H-[1,2,4]triazol-3-yl)-heptyl ester | 1.08 mmol, 575 mg | FC(CCC(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)C1=NN=CN1)(C)C | C29H33FN6O3
reactant | potassium carbonate | 2.00 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | Quinoxaline-2-carboxylic acid [1-benzyl-7-fluoro-2-hydroxy-7-methyl-4-(4H-[1,2,4]triazol-3-yl)-octyl]-amide | 459 mg, 87% | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C1=NN=CN1)O)NC(=O)C1=NC2=CC=CC=C2N=C1 | C27H31FN6O2
